US04029787
3-Dimethylsulfamoyl-4-(4-methylpiperazine-1-yl)-benzonitrile
In a manner analogous to that of Example 22, 49 g of 4-chloro-3-dimethylsulfamoylbenzonitrile (0.2 mole) were reacted with N-methylpiperazine, and the final product was recrystallized from ethanol.

reactant | 4-chloro-3-dimethylsulfamoylbenzonitrile | 0.2 mole, 49 g | ClC1=C(C=C(C#N)C=C1)S(N(C)C)(=O)=O | C9H9ClN2O2S
reactant | N-methylpiperazine | CN1CCNCC1 | C5H12N2
product | 3-Dimethylsulfamoyl-4-(4-methylpiperazine-1-yl)-benzonitrile | CN(S(=O)(=O)C=1C=C(C#N)C=CC1N1CCN(CC1)C)C | C14H20N4O2S
